US07858665B2
A) Synthesis of 1-[3-(bromomethyl)phenoxycarbonylaminomethyl)cyclohexaneacetic acid
To a suspension of 3-bromomethylphenol (0.50 g, 2.67 mmol) in methylene chloride (8 ml), bis(trichloromethyl) carbonate (triphosgene, 0.368 g, 1.24 mmol) dissolved in methyl chloride (2 ml) and diisopropylethylamine (0.466 ml, 2.67 mmol) were cool added. The solution thus obtained was stirred one night at room temperature and then refluxed for 2 hours, This cooled solution was then dropped in a suspension of 1-(aminomethyl)cyclohexaneacetic acid (gabapentin, 0.911 g, 5.35 mmol) and diisopropylethylamine (0.932 ml, 5.35 mmol) in anhydrous dimethylformamide (4 ml). After 3 hours stirring, to the mixture ethyl acetate was added and it was washed with a 4% hydrochloric acid solution. The organic phase was dried under vacuum and the raw product thus obtained was purified by silica gel chromatography with n-hexane/ethyl acetate 1/1 (v/v) as eluent. The desired product was obtained as an oil (0.100 g) that was employed without further purification.

reactant | 3-bromomethylphenol | 2.67 mmol, 0.50 g | BrCC=1C=C(C=CC1)O | C7H7BrO
reactant | bis(trichloromethyl) carbonate | 1.24 mmol, 0.368 g | C(OC(Cl)(Cl)Cl)(OC(Cl)(Cl)Cl)=O | C3Cl6O3
reactant | diisopropylethylamine | 2.67 mmol, 0.466 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-(aminomethyl)cyclohexaneacetic acid | 5.35 mmol, 0.911 g | NCC1(CCCCC1)CC(=O)O | C9H17NO2
reactant | diisopropylethylamine | 5.35 mmol, 0.932 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 8 ml | C(Cl)Cl | CH2Cl2
solvent | methyl chloride | 2 ml | CCl | CH3Cl
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[3-(bromomethyl)phenoxycarbonylaminomethyl)cyclohexaneacetic acid | BrCC=1C=C(OC(=O)NCC2(CCCCC2)CC(=O)O)C=CC1 | C17H22BrNO4
